Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Sulfa (Sulfonamide Antibiotics)
 
Attending: ___.
 
Chief Complaint:
Left breast ductal carcinoma in situ
 
Major Surgical or Invasive Procedure:
___: Bilateral simple total mastectomies plus left axillary 
sentinel node biopsy.

 
History of Present Illness:
Ms. ___ is a ___ yr old woman with recent diagnosis of left 
breast DCIS here for second opinion (seen here - ___. She 
had a mammogram in ___ and ___ where they saw a 3mm 
area of new calcifications thought to be benign and recommended 
a 6month follow up. Her mammograms are extremely dense for her 
age. Her 6 month mammogram showed that the calcifications had 
increased from 3 to 5 mm and a biopsy was recommended (see 
reports below). Films and pathology reviewed in chart and with 
patient. On pathology the extent was 8mm although low grade they 
seem to have grown quickly and may be more occult than 
identified with dense breasts.

 
 
Past Medical History:
PMH:
Serrated adenoma of colon 
Hirsutism 
Osteoporosis 
Vitamin D deficiency 
Osteomalacia 
Dense breast 
Essential hypertension 
Pasteurella cellulitis due to cat bite 
Breast neoplasm, Tis (DCIS), left 

 
Social History:
___
Family History:
No family history of breast or ovarian cancer
 
Physical Exam:
DISCHARGE PHYSICAL EXAM
VS: T 98.2, BP 110/68, HR 79, RR 18, SpO2 97%RA 
GEN: NAD, pleasant, conversant 
HEENT: NCAT, EOMI, sclera anicteric
CV: RRR
PULM: no increased work of breathing, comfortable on RA
BREAST: B/l breast incisions c/d/i with steristrips in place.
Gauze and mastectomy binder overlying incisions, in place. JP x2
with light sanguinous output. No signs of hematoma or seroma.
ABD: soft, non-tender, non-distended
EXT: Warm, well-perfused, no edema, no tenderness 
NEURO: A&Ox3, no focal neurologic deficits
PSYCH: normal judgment/insight, normal memory, normal 
mood/affect
DRAINS: 2 JP drains with small amount of sang. output. 
[ ] foley           ___________      
[x] surgical drain  ___________

 
Pertinent Results:
No labs or imaging were obtained during the ___ hospital 
course.
 
Brief Hospital Course:
Ms. ___ presented to ___ on ___ for planned bilateral 
simple total mastectomies plus left axillary sentinel node 
biopsy. The operation proceeded as planned without 
intraoperative complications; please see the operative note for 
details. She taken to the PACU for an initial period, then 
transferred to the ward for observation overnight. She was alert 
and awake throughout the remainder of her hospital course. Pain 
was managed with oral medications. She was able to tolerate a 
diet starting on post-op day 0. She remained stable from a 
cardiovascular and pulmonary standpoint; vital signs were 
routinely monitored. Good pulmonary toilet and early ambulation 
and were encouraged throughout hospitalization. She also 
received subcutaneous heparin during this stay. All essential 
home medications were restarted immediately post-operatively.

At the time of discharge on POD1, Ms. ___ was doing well, 
afebrile and hemodynamically stable.  Drain output remained 
serosanguinous and appropriate in quantity. She was tolerating a 
diet, ambulating independently, voiding without assistance, and 
pain was well controlled with only Tylenol and without 
narcotics. 
The patient and family received discharge teaching including 
drain teaching; she declined ___ as she felt very comfortable 
with drain care. She received follow-up 
instructions with understanding verbalized and was in agreement 
with the discharge plan. She and her family know to call our 
clinic with any additional questions or if she later decides she 
would prefer to have a visiting nurse.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Zolpidem Tartrate 5 mg PO QHS:PRN insomnia 
2. LORazepam 0.5 mg PO Q6H:PRN anxiety 
3. zoledronic acid-mannitol-water 5 mg/100 mL injection yearly 
4. amLODIPine 2.5 mg PO DAILY 
5. Aspirin 81 mg PO DAILY 
6. Cyanocobalamin Dose is Unknown  PO DAILY 
7. Vitamin D ___ UNIT PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H  
2.  Ondansetron ODT 4 mg PO Q8H:PRN N/v 
RX *ondansetron 4 mg 1 tablet(s) by mouth every eight (8) hours 
Disp #*5 Tablet Refills:*0 
3.  Scopolamine Patch 1 PTCH TD ONCE Duration: 72 Hours  
4.  amLODIPine 2.5 mg PO DAILY  
5.  Aspirin 81 mg PO DAILY  
6.  Cyanocobalamin 0 mcg PO DAILY  
7.  LORazepam 0.5 mg PO Q6H:PRN anxiety  
8.  Vitamin D ___ UNIT PO DAILY  
9.  zoledronic acid-mannitol-water 5 mg/100 mL injection yearly  

10.  Zolpidem Tartrate 5 mg PO QHS:PRN insomnia  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Pre-op diagnosis of left breast DCIS, final surgical pathology 
is pending

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to ___ for overnight observation after your 
bilateral mastectomy and left sentinel lymph node biopsy. You 
did well overnight and are now ready for discharge to home to 
continue your recovery. Please follow the mastectomy discharge 
instructions below while you continue to heal at home:

Personal Care: 
1. You may keep your incisions open to air or covered with a 
clean, sterile gauze that you change daily.
2. Clean around the drain site(s), where the tubing exits the 
skin, with soap and water. 
3. Strip drain tubing, empty bulb(s), and record output(s) ___ 
times per day.
4. A written record of the daily output from each drain should 
be brought to every follow-up appointment. Your drains will be 
removed as soon as possible when the daily output tapers off to 
an acceptable amount. 
5. Continue to wear your mastectomy binder for at least the next 
___ days. Afterwards you may wear a surgical bra or soft, loose 
camisole for comfort. 
6. You may shower daily with assistance as needed. Be sure to 
secure your drains so they don't hang down loosely and pull out.
7. If used, any Dermabond skin glue will begin to flake off in 
about ___ days. Please leave your skin-colored steristrips in 
place; they will also flake off on their own within about 2 
weeks.

Activity: 
1. You may resume your regular diet. 
2. Walk several times a day. 
3. DO NOT lift anything heavier than 5 pounds or engage in 
strenuous activity for 6 weeks following surgery. 

Medications: 
1. Resume your regular medications unless instructed otherwise 
and take any new meds as ordered. 
2. You may take Tylenol or Extra Strength Tylenol for mild pain 
as directed on the packaging and up to 4000 mg per day total. 
Please note that Percocet and Vicodin have Tylenol as an active 
ingredient so do not take these meds with additional Tylenol. 
3. You did not require any narcotic pain medications while in 
the hospital so we have not prescribed any for you at this time. 
If you find at home that you need additional medications to 
control your pain, please call our clinic.
4. Take Colace, 100 mg by mouth 2 times per day, as needed for 
constipation. You may use a different over-the-counter stool 
softener if you wish. 

Call the office IMMEDIATELY if you have any of the following: 
1. Signs of infection: fever with chills, increased redness, 
swelling, warmth or tenderness at the surgical site, or unusual 
drainage from the incision(s). 
2. A large amount of bleeding from the incision(s) or drain(s). 
3. Fever greater than 101.5 oF 
4. Severe pain NOT relieved by your medication. 

Return to the ER if: 
* If you are vomiting and cannot keep in fluids or your 
medications. 
* If you have shaking chills, fever greater than 101.5 (F) 
degrees or 38 (C) degrees, increased redness, swelling or 
discharge from incision, chest pain, shortness of breath, or 
anything else that is troubling you. 
* Any serious change in your symptoms, or any new symptoms that 
concern you. 

DRAIN DISCHARGE INSTRUCTIONS 
You are being discharged with a drain in place. Drain care is a 
clean procedure. Wash your hands thoroughly with soap and warm 
water before performing drain care. Perform drainage care twice 
a day. Try to empty the drain at the same time each day. Pull 
the stopper out of the drainage bottle and empty the drainage 
fluid into the measuring cup. Record the amount of drainage 
fluid on the record sheet. Reestablish drain suction. A daily 
log of drain outputs should be maintained and brought with you 
to your follow up appointment. Since you reported that you felt 
comfortable with drain care, we have not set up a visiting nurse 
at this time. However, please feel free to call our clinic if 
you have any questions or find that you do in fact need a 
visiting nurse for help with drain care.

It has been our pleasure taking care of you here at ___, and 
we wish you the best as you return home!

 
Followup Instructions:
___